US06525202B2
Ethyl 3-[butyl-4-(4-oxo-1-piperidineyl)anilino]-3-oxopropanoate
A solution of 8-(4-nitro-phenyl)-1,4-dioxa-8-aza-spiro[4.5]decane (13.01 g, 49 mmol) was hydrogenated under 45 psi for one hour using 10% palladium on carbon (2.5 g) as catalyst. The reaction mixture was filtered through celite pad and the filtrate was concentrated down to give a white solid (11.46 g, 100%). This material was taken onto next step immediately. To a stirred mixture, under N2 atmosphere, of the aniline (11.46 g, 49 mmol), butryaldehyde (4.43 mL, 49 mmol) in tetrahydrofuran (250 mL) was added sodium triacetoxyborohydride (14.62 g, 68.6 mmol), and glacial acetic acid (2.82 mL, 49 mmol). The reaction was stirred for two hours. The reaction was quenched with 1N NaOH (50 mL), diluted with water, extracted with ether 3 times and dried over sodium sulfate. The product was purified by flash silica gel chromatography eluting with 1:1 ethyl acetate/hexanes to give an oil (5.80 g, 41%). This material was immediately taken onto next step. A solution of the N-butyl aniline (5.80 g, 19.9 mmol) in a 1:1 mixture of perchloric acid and hydrochloric acid (100 mL) was stirred at room temperature for three days. The reaction mixture was poured onto ice and made basic with concentracted ammonium hydroxide, extracted with ether four times, dried over sodium sulfate and concentrated to give a yellow oil. The yellowish oil was purified by flash silica gel chromatography eluting with 1:1 ethyl acetate/hexanes to give 1-[4-(butylamino)phenyl]-4-piperidineone as an oil (3.84 g, 82%). To a stirred mixture of 1-[4-(butylamino)phenyl]-4-piperidineone (2.46 g, 10 mmol), triethylamine (1.81 mL, 13 mmol), and 4-(dimethylamino)pyridine (DMAP) (catalytic amount) was added ethyl 3-chloro-3-oxopropionate (2.18 g, 13 mmol) dropwise. The reaction was stirred for 18 hours. The reaction mixture was filtered, concentrated in vacuo, taken up in methylene chloride, and washed with saturated sodium bicarbonate two times and dried over sodium sulfate. The product was purified by flash silica gel chromatography eluting with 1:1 ethyl acetate/hexanes to give a yellow oil (3.84 g, 68%); MS (ES) m/z: 361.3 (MH+, 100%).

reactant | 1-[4-(butylamino)phenyl]-4-piperidineone | 10 mmol, 2.46 g | C(CCC)NC1=CC=C(C=C1)N1CCC(CC1)=O | C15H22N2O
reactant | triethylamine | 13 mmol, 1.81 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl 3-chloro-3-oxopropionate | 13 mmol, 2.18 g | ClC(CC(=O)OCC)=O | C5H7ClO3
catalyst | 4-(dimethylamino)pyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | Ethyl 3-[butyl-4-(4-oxo-1-piperidineyl)anilino]-3-oxopropanoate | 3.84 g, 68% | C(CCC)N(C1=CC=C(C=C1)N1CCC(CC1)=O)C(CC(=O)OCC)=O | C20H28N2O4
